US06833462B2
One liter flask equipped with a Dean-Stark condenser was charged with 166.3 g (1.0 mol) of 2-methyl-2-adamantanol (supplied by Sigma-Aldrich Co.), 2.0 g (20 mmol) of sulfuric acid and 500 g of toluene. The content was heated to the solvent reflux temperature. While toluene and water produced through the reaction were collected as an azeotrope by the Dean-Stark condenser, the reaction mixture was refluxed for 2 hours. After completion of the reaction, the catalyst was removed by washing the reaction mixture with water and the obtained organic phase was concentrated to dryness to give 152.5 g of white solid 2-methyleneadamantane (purity: 99.0%, yield: 98.0%).

reactant | 2-methyl-2-adamantanol | 1.0 mol, 166.3 g | CC1(C2CC3CC(CC1C3)C2)O | C11H18O
reactant | sulfuric acid | 20 mmol, 2.0 g | S(O)(O)(=O)=O | H2O4S
reactant | toluene | 500 g | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-methyleneadamantane | yield: 98.0% | C=C1C2CC3CC(CC1C3)C2 | C11H16
